US08686005B2
N-(2-Amino-ethyl)-2-bromo-benzenesulfonamide:
To solution of (2-amino-ethyl)-carbamic acid tert-butyl ester (208 mg, 1.3 mmol) in CH2Cl2 (20 mL) was added DIEA (300 μL, 1.72 mmol) at 0° C., followed by the addition of 2-bromo-benzenesulfonyl chloride (383 mg, 1.5 mmol). After it was stirred at 0° C. for 1 h and at the room temperature for another 16 h, the reaction mixture was evaporated thoroughly. The residue was diluted with 20% TFA in CH2Cl2 (10 mL), stirred for 3 h at the room temperature, and evaporated. Chromatography of the residual crude with CH2Cl2/MeOH/28% aqueous NH4OH (90:10:1) afforded the title compound (313 mg, 86%). 1H NMR (DMSO-d6) δ 2.86 (t, J=8 Hz, 2H), 3.04 (t, J=8 Hz, 2H), 7.55-7.65 (2H), 7.89 (d, J=8 Hz, 1H), 8.01 (d, J=8 Hz, 1H); ESI-MS m/z 279.1 (MH+).

reactant | (2-amino-ethyl)-carbamic acid tert-butyl ester | 1.3 mmol, 208 mg | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
reactant | DIEA | 1.72 mmol, 300 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-bromo-benzenesulfonyl chloride | 1.5 mmol, 383 mg | BrC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(2-Amino-ethyl)-2-bromo-benzenesulfonamide | 313 mg, 86% | NCCNS(=O)(=O)C1=C(C=CC=C1)Br | C8H11BrN2O2S
